US04771046
First 22.8 ml of trimethylsilyl chloride and then 25.1 ml of triethylamine were added dropwise to a solution of 43.1 g of (3R,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-acetoxy-2-azetidinone in 450 ml of methylene chloride, maintained at 0° to 5° C. in an ice-water bath. The mixture was stirred at room temperature for 2 hous, then again cooled to 0° to 5° C. in an ice-water bath and filtered under suction. The filtrate was concentrated under reduced pressure. The residue was mixed with 300 ml of anhydrous ether and insolubles were filtered off. The solvent was stripped off from the filtrate, giving 52.8 g of crystalline (3R,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-acetoxy-1-trimethylsilyl-2-azetidinone.

reactant | trimethylsilyl chloride | 22.8 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 25.1 ml | C(C)N(CC)CC | C6H15N
reactant | (3R,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-acetoxy-2-azetidinone | 43.1 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1OC(C)=O)=O | C13H25NO4Si
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | (3R,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-acetoxy-1-trimethylsilyl-2-azetidinone | 52.8 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1OC(C)=O)[Si](C)(C)C)=O | C16H33NO4Si2
